US06313160B1
Step A: 2,7-Dimethoxynaphthalene
Methylation of 2,7-dihydroxynaphthalene (10 g:62.43 mmol) is carried out in acetone (100 ml) in the presence of dimethyl sulphate (12.06 ml:127 mmol:2.03 eq.) and dry potassium carbon-ate (42.3 g:306 mmol:4.9 eq.). The temperature of the reaction medium is 56° C. for 6 hours and then 40° C. for 12 hours. Hydrolysis (7.4 ml of water) requires 2 hours of stirring at ambient temperature. After filtering off the salts over Celite and concentrating the remaining filtrate, extraction with dichloromethane yields an organic phase, which, after evaporation, has the appearance of a beige solid. The latter is rendered colourless using active carbon and then recrystallised from a PE/CH2Cl2 mixture.

reactant | 2,7-dihydroxynaphthalene | 62.43 mmol, 10 g | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | dimethyl sulphate | 127 mmol, 12.06 ml, 2.03 eq. | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbon-ate | 306 mmol, 42.3 g, 4.9 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | water | 7.4 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,7-Dimethoxynaphthalene | COC1=CC2=CC(=CC=C2C=C1)OC | C12H12O2
